US07223766B2
[6-(2-Fluoro-phenyl)-1,3-dimethyl-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-pyridin-4-yl-amine
4-Chloro-6-(2-fluoro-phenyl)-1,3-dimethyl-1H-pyrazolo[3,4-d]pyrimidine (84 mg, 0.304 mmole) and 4-aminopyridine (57 mg, 0.608 mmole) were combined in 4 ml isopropanol, added 3 drops 4M HCl/dioxane and heated reaction mixture to 80° C. for 5 hours. Cooled reaction mixture and filtered product to obtain 83 mg after vacuum drying (yield: 81%).

reactant | 4-Chloro-6-(2-fluoro-phenyl)-1,3-dimethyl-1H-pyrazolo[3,4-d]pyrimidine | 0.304 mmole, 84 mg | ClC1=C2C(=NC(=N1)C1=C(C=CC=C1)F)N(N=C2C)C | C13H10ClFN4
reactant | 4-aminopyridine | 0.608 mmole, 57 mg | NC1=CC=NC=C1 | C5H6N2
solvent | isopropanol | 4 ml | C(C)(C)O | C3H8O
catalyst | HCl dioxane | 4M, 3 drops | Cl.O1CCOCC1
product | [6-(2-Fluoro-phenyl)-1,3-dimethyl-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-pyridin-4-yl-amine | yield: 81% | FC1=C(C=CC=C1)C1=NC(=C2C(=N1)N(N=C2C)C)NC2=CC=NC=C2 | C18H15FN6
